US07344702B2
Synthesis of 1-(4-hydroxymethylphenoxy)propan-2-one
To a stirred solution of 4-hydroxybenzyl alcohol (1.0 g, 8.06 mmol) in acetone (80 mL) was added potassium carbonate (1.34 g, 9.68 mmol) and chloroacetone (0.771 mL, 9.68 mmol). After completion of addition the reaction mixture was heated to reflux. After 20 hours the reaction mixture was cooled down to room temperature and the solvent was removed. Water and ethyl acetate were added to the crude material. The aqueous layer was separated and extracted with ethyl acetate (3×, 100 mL). All combined organic layers were dried over Na2SO4, filtered, and concentrated to provide an oil. The crude material was purified using silica gel chromatography (gradient from 4:1 to 1:1 pentane:ethyl acetate) to provide the desired product (0.981 g, 5.45 mmol) in 98% yield. 1H (CDCl3, 600 MHz): δ 7.30 (2H, d, J=8.7 Hz), 6.87 (2H, d, J=8.7 Hz), 4.63 (2H, d, J=5.7 Hz), 4.54 (2H, s), 2.27 (3H, s), 1.66 (1H, t, J=5.8 Hz); 13C (CDCl3, 150 MHz): δ 205.7, 157.3, 134.3, 128.8, 114.6, 73.1, 64.8, 26.6.

reactant | 4-hydroxybenzyl alcohol | 8.06 mmol, 1.0 g | OC1=CC=C(CO)C=C1 | C7H8O2
reactant | potassium carbonate | 9.68 mmol, 1.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetone | 9.68 mmol, 0.771 mL | ClCC(C)=O | C3H5ClO
solvent | acetone | 80 mL | CC(=O)C | C3H6O
product | 1-(4-hydroxymethylphenoxy)propan-2-one | 5.45 mmol, 0.981 g, 98% yield | OCC1=CC=C(OCC(C)=O)C=C1 | C10H12O3
